reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]2=[C:5]([H:14])[C:6]2=[C:7]1[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[C:5][H:14])([H:12])[H:13])([C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],44.51595701092239
[C:1]([O:2][C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([N:6]=[C:5]=[C:4]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],79.4160915206311
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5](=[O:6])[H:14])[H:13])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1]([C:2]1([H:10])[C:3]([H:12])=[C:4]1[H:13])([H:7])([H:8])[H:9].[H:11][H:14],93.30767889811442
[C:1]([C:2](=[O:3])[H:10])([C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6](=[O:7])[H:11])([H:8])([H:9])[H:10],80.8820185343777
[C:1](/[C:2](=[N:3]/[O:4][H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C+:2]([N:3]([O-:4])[H:10])[C:5]([O:6][H:13])([H:11])[H:12])([H:7])([H:8])[H:9],50.6441014016731
[C:1]([C@@:2]1([H:14])[N:3]([H:11])[C:6](=[O:7])[C:5]([H:12])([H:13])[O:4]1)([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],78.9550350632698
[N:1]([C:5]1=[N:6][C:2]12[C:3]([H:9])([H:10])[C:4]2([H:11])[H:12])([H:7])[H:8]>>[N:1]([C:2]1([C:5]#[N:6])[C:3]([H:9])([H:10])[C:4]1([H:11])[H:12])([H:7])[H:8],69.2211873952722
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]#[N:6])[H:14])([H:7])([H:8])[H:9].[H:10][H:15],98.937693670262
[O:1]([C:2]([C:3]([O-:4])=[C+:5][O:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],33.04525971122028
[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4][N:5]([C:6]#[N:7])[H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],74.8823317751647
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C-:3]#[O+:4].[C:1]([C:2](=[C:5]=[N:6][H:11])[H:10])([H:7])([H:8])[H:9],51.5355954689262
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C-:1]([O+:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:7])[H:9].[C:5](#[N:6])[H:8],73.0515704896147
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1=[O:6])([H:7])([H:8])[H:9].[C:5]([H:13])([H:14])([H:15])[H:16]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([H:13])([H:14])[H:15])[O:6][H:16])([H:7])([H:8])[H:9],74.0973448512474
[C:1]([C:2](=[O:3])[H:7])([H:4])([H:5])[H:6]>>[C:1](=[C:2]([O:3][H:5])[H:7])([H:4])[H:6],66.9252682157753
[C:1]([C:2](=[C:3]=[C:4]=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],91.43701930186168
[O:1]([C:2]1=[C:5]=[C:6]([H:12])[C:4]([H:10])([H:11])[C:3]1([H:8])[H:9])[H:7]>>[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],59.3176888932446
[C:1]1([H:8])([H:10])[C@:2]([O:3][H:12])([H:11])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C@@:6]1([O:7][H:9])[H:17]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],82.5766495192557
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:6]#[N:7])([H:8])([H:9])[H:10].[O:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16],92.94367392963
[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:4][C:3](=[N:2][H:10])[O:5][C:6]([H:11])([H:12])[H:13])([H:7])([H:8])[H:9],83.15079278175591
[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C:5]([O:4][H:10])=[O:6]>>[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],126.67476207015994
[N:1](=[C:2]([H:9])[H:11])[H:8].[O:3]=[C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])[H:10]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],65.44567354595739
[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([C:5]#[N:6])[H:10])([H:7])[H:8].[C:3](=[O:4])([H:11])[H:12].[H:9][H:13],84.7207705204863
[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12]>>[C:1](=[O:2])([C:3]1([H:8])[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12])[H:7],63.0462894527468
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:2]1([N+:6]#[C-:5])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],56.39826970523421
[N:1](=[C:2]1\[N:3]=[N:4][C@@:7]1([C:6](=[O:5])[H:9])[H:10])\[H:8]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],26.98210185766399
[C:1]([C:6](/[C:4]([N:3]([C+:2]([H:11])[H:12])[H:13])=[N:5]\[H:14])=[N-:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],15.300114616165914
